US07943622B2
Step 3. Synthesis of methyl 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of methyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate (32 mg, 0.074 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure. The material was dissolved in H2O (20 mL), and the pH was adjusted to ˜2 with concentrated HCl. This was washed with Et2O (3×5 mL, discarded). The aqueous layer was adjusted to pH ˜12 with 1 N NaOH and was extracted with EtOAc (3×20 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure, yielding 5.0 mg (17%) of the title compound. LC-MS: RT=3.41 min, (M+H)+=335.4.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | methyl 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate | 0.074 mmol, 32 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1SC=C(N1)C(=O)OC)COC=1C=NC=CC1 | C20H26N4O5S
solvent | MeOH | 1 mL | CO | CH4O
product | methyl 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylate dihydrochloride | 5.0 mg, 17% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C=1SC=C(N1)C(=O)OC | InChI=1S/C15H18N4O3S.2ClH/c1-21-14(20)13-10-23-15(18-13)19-6-5-17-7-11(19)9-22-12-3-2-4-16-8-12;;/h2-4,8,10-11,17H,5-7,9H2,1H3;2*1H
